US07084134B2
To a solution of 0.049 g (0.09 mmol) [2-({[((2S)-1-{(2R)-2-[(tert-butoxycarbonyl) amino]-2-cyclohexylethanoyl} pyrrolidin-2-yl)carbonyl]amino} methyl)-4-chlorophenoxy]acetic acid (J. Med. Chem 1998, 41, 3210) in 3 mL DMF was added 0.018 g (0.1 mmol) glycine tertbutyl ester hydrochloride, 0.015 mL (0.1 mmol) triethylamine, 0.014 g (0.1 mmol) HOAt and 0.029 g (0.15 mmol) EDC. After 3 hours the reaction mixture was diluted with 100 mL EtOAc, washed with 50 mL each of 10% aqueous KHSO4, dilute brine, and brine, then dried over Na2SO4, filtered, and concentrated. The residue was dissolved in 3 mL CH2Cl2 and cooled to 0° C. whereupon 1.5 mL trifluoroacetic acid was added and the mixture stirred 30 minutes at 0° C. then warmed to room temperature for 2 hours. To this was added 50 mL toluene and the mixture concentrated, redissolved in CH2Cl2 and toluene and concentrated. The residue was dissolved in 50 mL DMF and to this was added 0.03 mL (0.2 mmol) triethylamine, 0.015 g (0.1 mmol) HOAt and 0.030 g (0.15 mmol) EDC. After 64 hours the reaction mixture was concentrated and the residue diluted with 50 mL EtOAc, washed with 20 mL each of 10% aqueous KHSO4, dilute brine, and brine, then dried over Na2SO4, filtered, and concentrated. Purification by flash chromatography (1.5×12 cm silica gel, linear gradient 1–9% MeOH/CH2Cl2 afforded (6R,20aS)-16-chloro-6-cyclohexyl-2,3,6,7,9,10,18,19-octahydro-1H-pyrrolo[1,2-j][1,4,7,10,13] benzoxatetraazacyclohexadecine-5,8,11,20 (12H,20aH)-tetrone as a white flaky solid. 1H NMR (CD3OD, 400 MHz): δ 7.32 (d, J=2.65 Hz, 1H), 7.24 (dd, J=2.65 and 8.8 Hz, 1H), 7.01 (d, J=8.8 Hz, 1H), 4.75 (d, J=14.0 Hz, 1H), 4.69 (d, J=14.3 Hz, 1H), 4.60 (d, J=14.3 Hz, 1H); 4.45 (dd, J=3.2 and 8.5 Hz, 1H), 4.3 (d, J=9.97 Hz, 1H), 4.15 (d, J=15.6 Hz, 1H), 4.13 (d, J=14.0 Hz, 1H), 3.97 (m, 1H), 3.73 (d, J=15.6 Hz, 1H), 3.61 (m, 1H), 2.16 (m, 1H), 2.08 (m, 1H), 2.0–1.88 (m, 3H), 1.8–1.6 (m, 5H), 1.58 (m, 1H), 1.28 (m, 2H), 1.04 (m, 1H); exact mass calculated for C24H31C1N4O5: 491.2056 found 491.2067. Analytical HPLC (Zorbax SB-C18 4.6×75 mm, 5% to 95% CH3CN in 0.1% aqueous H3PO4):>99% at 215 nm.

reactant | [2-({[((2S)-1-{(2R)-2-[(tert-butoxycarbonyl) amino]-2-cyclohexylethanoyl} pyrrolidin-2-yl)carbonyl]amino} methyl)-4-chlorophenoxy]acetic acid | 0.09 mmol, 0.049 g | C(C)(C)(C)OC(=O)N[C@@H](C(=O)N1[C@@H](CCC1)C(=O)NCC1=C(OCC(=O)O)C=CC(=C1)Cl)C1CCCCC1 | C27H38ClN3O7
reactant | glycine tertbutyl ester hydrochloride | 0.1 mmol, 0.018 g | Cl.C(C)(C)(C)OC(CN)=O
reactant | triethylamine | 0.1 mmol, 0.015 mL | C(C)N(CC)CC | C6H15N
reactant | HOAt | 0.1 mmol, 0.014 g | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | EDC | 0.15 mmol, 0.029 g
reactant | triethylamine | 0.2 mmol, 0.03 mL | C(C)N(CC)CC | C6H15N
reactant | HOAt | 0.1 mmol, 0.015 g | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | EDC | 0.15 mmol, 0.030 g
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | (6R,20aS)-16-chloro-6-cyclohexyl-2,3,6,7,9,10,18,19-octahydro-1H-pyrrolo[1,2-j][1,4,7,10,13] benzoxatetraazacyclohexadecine-5,8,11,20 (12H,20aH)-tetrone | ClC=1C=CC2=C(CNC([C@H]3N(C([C@H](NC(CNC(CO2)=O)=O)C2CCCCC2)=O)CCC3)=O)C1 | C24H31ClN4O5
